* Z:\mnt\design.r\spice\examples\3261.asc
V1 IN 0 15
C5 OUT 0 10µ Rser=5m
Rload OUT 0 3K
XU1 MP_01 0 MP_02 OUT N002 MP_03 MP_04 N001 IN IN 0 MP_05 0 LTC3261
C7 N002 N001 1µ
.tran 2m startup
.lib LTC3261.sub
.backanno
.end
